US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-hydroxy-3-methylbenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.23 mmol) was treated with 4-hydroxy-3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide (133 mg, 0.34 mmol), 2M cesium carbonate (340 μl, 0.68 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (19 mg, 0.02 mmol) according to the method described in Example 3 to give 76 mg (53% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.23 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 4-hydroxy-3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 0.34 mmol, 133 mg | OC1=C(C=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C19H24BNO5S
reactant | cesium carbonate | 0.68 mmol, 2M, 340 μl | C([O-])([O-])=O.[Cs+].[Cs+]
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-hydroxy-3-methylbenzenesulfonamide | 76 mg, 53% yield | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)O)C)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H30N8O4S
